* C:\Users\adith\eSim-Workspace\CMOS_NOR_GATE\CMOS_NOR_GATE.cir

.lib "sky130_fd_pr/models/sky130.lib.spice" tt


xM1  vdd input_a Net-_M1-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 M=1		
xM2  Net-_M1-Pad3_ input_b vout vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 M=1		
xM3  vout input_a GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.5 M=1		
xM4  vout input_b GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.5 M=1		
* U1  /input_a /input_b /vdd /vout PORT		

vdd vdd 0 3.3
v1 input_a 0 pulse(0 1.8 20us 0.1us 0.1us 20us 40us)
v2 input_b 0 pulse(0 1.8 10us 0.1us 0.1us 10us 20us)
.tran 0.1us 40us
.control
run
plot v(input_a) 
plot v(input_b) 
plot v(vout)
.endc
.end
